US07767674B2
1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-{4-[4-(pyridin-4-yl carbonyl)-piperazin-1-ylmethyl]-phenyl}-urea
To a suspension of 75 mg (0.17 mmol) of 1-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3-(4-piperazin-1-ylmethyl-phenyl)-urea dihydrochloride in methylene chloride (5 mL) is added DIEA (0.103 mL, 0.6 mmol), PS-carbodiimide (266 mg, 0.34 mmol), HOBT (23 mg, 0.17 mmol) and then isonicotinic acid (21 mg, 0.17 mmol). The reaction mixture is shaken at room temperature overnight. Next, PS-trisamine (150 mg) is added and the reaction mixture shaken at room temperature for 2 hr. The mixture is filtered and evaporated to afford a yellow oil, that is chromatographed using methylene chloride to 92:8 methylene chloride:methanol in a gradient. The title compound is collected as a white solid weighing 12 mg (0.03 mmol, 18%). ES+(m/z)=476 [M+H]).

reactant | 1-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3-(4-piperazin-1-ylmethyl-phenyl)-urea dihydrochloride | 0.17 mmol, 75 mg | Cl.Cl.C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC=C(C=C1)CN1CCNCC1
reactant | DIEA | 0.6 mmol, 0.103 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | carbodiimide | 0.34 mmol, 266 mg | N=C=N | CH2N2
reactant | HOBT | 0.17 mmol, 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | isonicotinic acid | 0.17 mmol, 21 mg | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | trisamine | 150 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-{4-[4-(pyridin-4-yl carbonyl)-piperazin-1-ylmethyl]-phenyl}-urea | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC=C(C=C1)CN1CCN(CC1)C(=O)C1=CC=NC=C1 | C26H33N7O2
